US07176242B2
Step 1: 2-Chloroisonicotinonitrile
4-cyanopyridine-N-oxide (10.0 g) was added to phosphorus oxychloride (85 mL) and heated to 110° C. for 2.5 h. The mixture was cooled to room temperature and the excess phosphorus oxychloride removed under reduced pressure. The residue was dissolved in water and made basic with concentrated ammonia. The product was extracted into methylene chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Column chromatography on silica gel (100 mL) using methylene chloride as eluent to give 7.19 g of the title compound: 1H NMR (CDCl3) δ 7.48, 7.6, 8.6.

reactant | 4-cyanopyridine-N-oxide | 10.0 g | C(#N)C1=CC=[N+](C=C1)[O-] | C6H4N2O
reactant | phosphorus oxychloride | 85 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloroisonicotinonitrile | 7.19 g | ClC=1C=C(C#N)C=CN1 | C6H3ClN2
